US07368468B2
Fluvastatin methyl ester (3.0 g) was added to a solution of NaOH (1 eq.) in water (0.75 ml) and ethanol (7.5 ml). The mixture was heated to reflux and stirred until the starting material was no longer detectable by HPLC. Then, 58 ml of MTBE was dripped into the solution over 1.5 h. Turbidity appeared in the solution. The mixture was cooled slowly to room temperature and stirred overnight. The product was isolated by filtration under nitrogen, washed with MTBE (50 ml) and dried at 50° C. in a vacuum oven for 24 h to obtain 2.21 g (72.3%) of fluvastatin sodium Form XIV.

reactant | Fluvastatin methyl ester | 3.0 g | CC(C)N1C2=CC=CC=C2C(=C1/C=C/[C@@H](C[C@@H](CC(=O)OC)O)O)C3=CC=C(C=C3)F | C25H28FNO4
reactant | NaOH | 1 eq. | [OH-].[Na+]
reactant | MTBE | 58 ml | CC(C)(C)OC | C5H12O
solvent | water | 0.75 ml | O | H2O
solvent | ethanol | 7.5 ml | C(C)O | C2H6O
product | fluvastatin sodium | 2.21 g, 72.3% | CC(C)N1C=2C=CC=CC2C(=C1/C=C/C(CC(CC(=O)[O-])O)O)C=3C=CC(=CC3)F.[Na+] | InChI=1S/C24H26FNO4.Na/c1-15(2)26-21-6-4-3-5-20(21)24(16-7-9-17(25)10-8-16)22(26)12-11-18(27)13-19(28)14-23(29)30;/h3-12,15,18-19,27-28H,13-14H2,1-2H3,(H,29,30);/q;+1/p-1/b12-11+;
